US08748624B2
STEP B: Ethyl 3-(5-(2-formylphenyl)picolinamido)propanoate
Ethyl 3-(5-bromopicolinamido)propanoate (800 mg, 2.7 mmol), 2-formylphenylboronic acid (518 mg, 3.5 mmol), Pd(dppf)Cl2 (217 mg, 0.27 mmol), and K2CO3 (734 mg, 5.3 mmol) were dissolved in 1,4-dioxane (16 mL) and water (4 mL) and heated to 80° C. After 3 h the resulting mixture was cooled to room temperature, diluted with EtOAc washed with water and brine, dried (Na2SO4), dry-packed onto silica gel and purified via column chromatography to yield the title compound.

reactant | Ethyl 3-(5-bromopicolinamido)propanoate | 2.7 mmol, 800 mg | BrC=1C=CC(=NC1)C(=O)NCCC(=O)OCC | C11H13BrN2O3
reactant | 2-formylphenylboronic acid | 3.5 mmol, 518 mg | C(=O)C1=C(C=CC=C1)B(O)O | C7H7BO3
reactant | K2CO3 | 5.3 mmol, 734 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 4 mL | O | H2O
solvent | 1,4-dioxane | 16 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(dppf)Cl2 | 0.27 mmol, 217 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | Ethyl 3-(5-(2-formylphenyl)picolinamido)propanoate | C(=O)C1=C(C=CC=C1)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC | C18H18N2O4
